* D:\#Engenharia_eletronica\#UFPE\2024-1_-_Engenharia_Eletronica\EL216 - CIRCUITOS ELETRICOS 2A - 90h\Praticas_circuitos2\02\circuito_pratica_2.asc
V1 N006 0 -10
XU1 0 N005 N002 N006 N001 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V3 N002 0 10
R1 N004 N003 470
R2 N004 0 470
C1 N001 N004 100n
C2 N005 N004 100n
R3 N001 N005 47k
V2 N003 0 SINE(0 100m 40)
.tran 1e-10 0.1
.lib UniversalOpAmp1.lib
.backanno
.end
